US04532242
A mixture of 51.1 g (0.3 mole) of 4-hydroxy-6-n-propylpyrimidine-2-thiol, 51.3 g (0.3 mole) of benzyl bromide, 100 ml of dioxane and 500 ml of 1N aqueous sodium hydroxide solution was heated at 80° C. for four hours. After cooling, the solid was collected by filtration to provide white crystals of 2-benzylthio-4-hydroxy-6-n-propylpyrimidine, m.p. 122°-126° C.

reactant | 4-hydroxy-6-n-propylpyrimidine-2-thiol | 0.3 mole, 51.1 g | OC1=NC(=NC(=C1)CCC)S | C7H10N2OS
reactant | benzyl bromide | 0.3 mole, 51.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 1N, 500 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-benzylthio-4-hydroxy-6-n-propylpyrimidine | C(C1=CC=CC=C1)SC1=NC(=CC(=N1)O)CCC | C14H16N2OS
